* source TRS80_POWER
.EXTERNAL OUTPUT ACout+
.EXTERNAL OUTPUT ACout-
X_TX1    N15066 N15079 ACOUT+ ACOUT- SCHEMATIC1_TX1 
V_V1         N15059 N15079  
+SIN 0 170 60 0 0 0
R_R1         N15059 N15066  10 TC=0,0 
R_R2         ACOUT- ACOUT+  1k TC=0,0 
R_R3         N15079 ACOUT-  1M TC=0,0 
D_D1         0 ACOUT+ Dbreak 
D_D2         ACOUT+ N20589 Dbreak 
D_D3         0 ACOUT- Dbreak 
D_D4         ACOUT- N20589 Dbreak 
C_C1         0 N20589  200uF  TC=0,0 
R_R4         N21450 N20589  1k TC=0,0 
D_D5         0 N21450 D1N4678 
C_C2         0 N20589  200uF  TC=0,0 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 100
L2_TX1         3 4 1
.ends SCHEMATIC1_TX1
